### PR TITLE
Formalize Collatz conjecture statement

### LINKED ISSUE #83: Formalize Collatz conjecture statement
From https://en.wikipedia.org/wiki/Collatz_conjecture

### PR DESCRIPTION
**Pull request by TomasOrtega**
Closes #83

### CODE REVIEW

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,28 @@
...
+  if n % 2 = 0 then n / 2 else 3 * n + 1
+
+/--
+Now form a sequence by performing this operation repeatedly, beginning with any positive integer, and taking the result at each step as the input at the next.
+Formally:
+-/
+def collatzSeq (n i : ℕ) : ℕ :=
+  if i = 0 then n else f (collatzSeq n (i - 1))
+
+/--The **Collatz conjecture** states that for any positive integer $n$, there exists a natural number $i$ such that the $i$-th term of the sequence is 1.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]:
```suggestion
/--
The **Collatz conjecture** states that for any positive integer $n$, there exists a natural number
$i$ such that the $i$-th term of the sequence is 1.
```

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,28 @@
...
+Formally, we define the function f as follows:
+-/
+def f (n : ℕ) : ℕ :=
+  if n % 2 = 0 then n / 2 else 3 * n + 1
+
+/--
+Now form a sequence by performing this operation repeatedly, beginning with any positive integer, and taking the result at each step as the input at the next.
+Formally:
+-/
+def collatzSeq (n i : ℕ) : ℕ :=
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]: I would not define this separately, and instead use `Nat.iterate` in the main statement for iterate applications of `f`

**Review by callesonne — COMMENTED** [review]
Thanks for adding this! Here are a few comments

File: FormalConjectures/Wikipedia/CollatzConjecture.lean (hunk 2 above)
Comment (TomasOrtega) [reply FormalConjectures/Wikipedia/CollatzConjecture.lean]: Thanks for the comments! I updated the code

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,25 @@
...
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Collatz_conjecture)
+-/
+/--
+Consider the following operation on an arbitrary integer:
+If the number is even, divide it by two.
+If the number is odd, triple it and add one.
+Formally, we define the function f as follows:
+-/
+def f (n : ℕ) : ℕ :=
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]: Let's give this a better name, maybe `collatzStep`

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,25 @@
...
+  if n % 2 = 0 then n / 2 else 3 * n + 1
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]:
```suggestion
  if Even n then n / 2 else 3 * n + 1
```

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,25 @@
...
+
+/--
+Now form a sequence by performing this operation repeatedly, beginning with any positive integer,
+and taking the result at each step as the input at the next.
+The **Collatz conjecture** states that for any positive integer $n$, there exists a natural number
+$i$ such that the $i$-th term of the sequence is 1.
+-/
+@[category research open, AMS 11]
+theorem CollatzConjecture : ∀ n : ℕ, n > 0 → ∃ i : ℕ, Nat.iterate f i n = 1 := by
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]: Let's use the notation for `Nat.iterate`.

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,25 @@
+import FormalConjectures.Util.ProblemImports
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean:17]: You probably want some copyright on this one

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 7]
```diff
@@ -0,0 +1,25 @@
...
+
+/-!
+# Collatz conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Collatz_conjecture)
+-/
+/--
+Consider the following operation on an arbitrary integer:
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]:
```suggestion
Consider the following operation on the natural numbers:
```

Comment (TomasOrtega) [reply FormalConjectures/Wikipedia/CollatzConjecture.lean]: Thanks for the comments!

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 8]
```diff
@@ -0,0 +1,40 @@
...
+def collatzStep (n : ℕ) : ℕ :=
+  if Even n then n / 2 else 3 * n + 1
+
+/--
+Now form a sequence by performing this operation repeatedly, beginning with any positive integer,
+and taking the result at each step as the input at the next.
+The **Collatz conjecture** states that for any positive integer $n$, there exists a natural number
+$m$ such that the $m$-th term of the sequence is 1.
+-/
+@[category research open, AMS 11]
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]: Maybe also AMS 37 Dynamical systems and ergodic theory, cf. https://terrytao.wordpress.com/2019/09/10/almost-all-collatz-orbits-attain-almost-bounded-values/

Comment (TomasOrtega) [reply FormalConjectures/Wikipedia/CollatzConjecture.lean]: Good point! Added.

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 9]
```diff
@@ -0,0 +1,40 @@
...
+  if Even n then n / 2 else 3 * n + 1
+
+/--
+Now form a sequence by performing this operation repeatedly, beginning with any positive integer,
+and taking the result at each step as the input at the next.
+The **Collatz conjecture** states that for any positive integer $n$, there exists a natural number
+$m$ such that the $m$-th term of the sequence is 1.
+-/
+@[category research open, AMS 11, AMS 37]
+theorem CollatzConjecture : ∀ n : ℕ, n > 0 → ∃ m : ℕ, collatzStep^[m] n = 1 := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean]:
```suggestion
theorem CollatzConjecture (n : ℕ) (hn : n > 0) : ∃ m : ℕ, collatzStep^[m] n = 1 := by
```

File: FormalConjectures/Wikipedia/CollatzConjecture.lean [hunk 10]
```diff
@@ -0,0 +1,40 @@
...
+  if Even n then n / 2 else 3 * n + 1
+
+/--
+Now form a sequence by performing this operation repeatedly, beginning with any positive integer,
+and taking the result at each step as the input at the next.
+The **Collatz conjecture** states that for any positive integer $n$, there exists a natural number
+$m$ such that the $m$-th term of the sequence is 1.
+-/
+@[category research open, AMS 11, AMS 37]
+theorem CollatzConjecture (n : ℕ) (hn : n > 0) : ∃ m : ℕ, collatzStep^[m] n = 1 := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/CollatzConjecture.lean:39]:
```suggestion
theorem CollatzConjecture (n : ℕ) (hn : n > 0) : ∃ m > 0, collatzStep^[m] n = 1 := by
```
This is equivalent, but I feel slightly more faithful to the wording of the problem (since `f^[0] = id`).

Comment (TomasOrtega) [reply FormalConjectures/Wikipedia/CollatzConjecture.lean:39]: Good point! I have clarified the wording, since the convention is that the Collatz sequence starting at $n$ is $\\{n, f(n), f^2(n), \ldots\\}$, so indeed `f^[0] = id` is desired.
